US07226926B2
2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol (145 mg, 0.75 mmol) and 2-(5-bromopyridin-3-yl)-5-fluorobenzonitrile (208 mg, 0.75 mmol) were coupled following the procedure in Example 23 to afford 5-fluoro-2-{5-[8-fluoro-7-(2-hydroxyprop-2-yl)imidazo[1,2-α]pyridin-3-yl]pyridin-3-yl}benzonitrile (152 mg, 52%) as a white solid: δH (500 MHz, DMSO) 1.59 (6H, s), 5.57 (1H, s), 7.23 (1H, dd, J 7 and 7), 7.80 (1H, ddd, J 9, 9 and 3), 7.91-7.94 (1H, m), 7.99 (1H, s), 8.08 (1H, dd, J 9 and 3), 8.41 (1H, dd, J 2 and 2), 8.58 (1H, d, J 7), 8.82 (1H, s), 9.01 (1H, s); m/z (ES+) 391 (100%, [MH]+).

reactant | 2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | 0.75 mmol, 145 mg | FC=1C=2N(C=CC1C(C)(C)O)C=CN2 | C10H11FN2O
reactant | 2-(5-bromopyridin-3-yl)-5-fluorobenzonitrile | 0.75 mmol, 208 mg | BrC=1C=C(C=NC1)C1=C(C#N)C=C(C=C1)F | C12H6BrFN2
product | 5-fluoro-2-{5-[8-fluoro-7-(2-hydroxyprop-2-yl)imidazo[1,2-α]pyridin-3-yl]pyridin-3-yl}benzonitrile | 152 mg, 52% | FC=1C=CC(=C(C#N)C1)C=1C=NC=C(C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C22H16F2N4O
